US08383637B2
[3-(4-Amino-3-propylaminomethyl-phenoxy)-phenyl]-cyclohexyl-carbamic acid benzyl ester
A mixture of cyclohexyl-[3-(4-nitro-3-propylaminomethyl-phenoxy)-phenyl]-carbamic acid benzyl ester (0.00181 mol) in methanol (50 mL) was hydrogenated with 5% Pt/C (0.5 g) as a catalyst in the presence of thiophene solution (1 mL). After uptake of H2 (3 equiv), the catalyst was filtered off and the filtrate was evaporated to yield the title compound as a residue which was used in subsequent reactions without further purification.

reactant | cyclohexyl-[3-(4-nitro-3-propylaminomethyl-phenoxy)-phenyl]-carbamic acid benzyl ester | 0.00181 mol | C(C1=CC=CC=C1)OC(N(C1=CC(=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])CNCCC)C1CCCCC1)=O | C30H35N3O5
reactant | thiophene | 1 mL | S1C=CC=C1 | C4H4S
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pt/C | 0.5 g | [Pt] | Pt
product | [3-(4-Amino-3-propylaminomethyl-phenoxy)-phenyl]-cyclohexyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(C1CCCCC1)C1=CC(=CC=C1)OC1=CC(=C(C=C1)N)CNCCC)=O | C30H37N3O3
